### PR TITLE
Add `setBlockOperands` and `pushBlockOperands`

### PR DESCRIPTION
**Pull request by math-fehr**
Also, add the Get/Set, InBounds, and Fields lemmas for them.
These lemmas are all copy-pasted from previous similar lemmas.

### CODE REVIEW

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -459,6 +459,15 @@ def OperationPtr.pushResult (op : OperationPtr) (ctx : IRContext) (resultS : OpR
       (hop : op.InBounds ctx := by grind) :=
     op.setResults ctx ((op.get ctx).results.push resultS)
 
+def OperationPtr.setBlockOperands (op: OperationPtr) (ctx: IRContext) (newOperands: Array BlockOperand)
+    (inBounds: op.InBounds ctx := by grind) : IRContext :=
+  let oldOp := op.get ctx (by grind)
+  op.set ctx { oldOp with blockOperands := newOperands}
```
Comment (luisacicolini) [inline Veir/IR/Basic.lean]:
```suggestion
  op.set ctx {oldOp with blockOperands := newOperands}
```

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -459,6 +459,15 @@ def OperationPtr.pushResult (op : OperationPtr) (ctx : IRContext) (resultS : OpR
       (hop : op.InBounds ctx := by grind) :=
     op.setResults ctx ((op.get ctx).results.push resultS)
 
+def OperationPtr.setBlockOperands (op: OperationPtr) (ctx: IRContext) (newOperands: Array BlockOperand)
```
Comment (luisacicolini) [inline Veir/IR/Basic.lean:462]: I'm curious, why do you need the operands to be explicit?

File: Veir/IR/Fields.lean [hunk 3]
```diff
@@ -658,6 +658,28 @@ theorem OperationPtr.setOperands_push_fieldsInBounds  (newOperand : OpOperand) (
     constructor <;> grind
   · grind
 
+@[grind .]
+theorem OperationPtr.pushBlockOperand_push_fieldsInBounds (newOperand : BlockOperand) (hoperand : newOperand.FieldsInBounds ctx) :
```
Comment (luisacicolini) [inline Veir/IR/Fields.lean]: this line seems a bit too long, maybe split?

File: Veir/IR/GetSet.lean [hunk 4]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
         (opOperand.get! ctx).nextUse := by
   grind
 
+/- OperationPtr.setBlockOperands -/
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:604]:
```suggestion
/-! ### OperationPtr.setBlockOperands -/
```
same comment as the previous PR, feel free to ignore if you prefer without markdown

File: Veir/IR/GetSet.lean [hunk 5]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+
+@[simp, grind =]
+theorem IRContext.topLevelOp_OperationPtr_setBlockOperands :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:607]: here too I'd be happy to look into the namespaces, all the`IRContext.` or whatever make the lemmas slightly less readable imho

File: Veir/IR/GetSet.lean [hunk 6]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+theorem BlockPtr.get!_OperationPtr_setBlockOperands {block : BlockPtr} :
+    block.get! (OperationPtr.setBlockOperands operation' ctx hop' newOperands) =
+    block.get! ctx := by
+  grind
+
+@[grind =]
+theorem OperationPtr.get!_OperationPtr_setBlockOperands {operation : OperationPtr} :
+    operation.get! (OperationPtr.setBlockOperands operation' ctx newOperands hop') =
+    if operation = operation' then
+      { operation.get! ctx with blockOperands := newOperands }
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]:
```suggestion
      {operation.get! ctx with blockOperands := newOperands}
```
afaik no spaces with parentheses/brackets

File: Veir/IR/GetSet.lean [hunk 7]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[simp, grind =]
+theorem OperationPtr.getNumOperands!_OperationPtr_setBlockOperands {operation : OperationPtr} :
+    operation.getNumOperands! (OperationPtr.setBlockOperands operation' ctx newOperands hop') =
+    operation.getNumOperands! ctx := by
+  grind
+
+@[simp, grind =]
+theorem OpOperandPtr.get!_OperationPtr_setBlockOperands {op : OperationPtr} {hop} {opOperand : OpOperandPtr} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]: should `hop` have a type?

File: Veir/IR/GetSet.lean [hunk 8]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+    opOperand.get! ctx := by
+  grind
+
+@[grind =]
+theorem OperationPtr.getNumSuccessors!_OperationPtr_setBlockOperands {operation : OperationPtr} :
+    operation.getNumSuccessors! (OperationPtr.setBlockOperands operation' ctx newOperands hop') =
+    if operation = operation' then
+      newOperands.size
+    else
+      operation.getNumSuccessors! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:693]:
```suggestion
    if operation = operation' then newOperands.size else operation.getNumSuccessors! ctx := by
```
I personally find this more readable (don't think there's a more common usage in lean4 on this), but feel free to ignore

File: Veir/IR/GetSet.lean [hunk 9]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[grind =]
+theorem BlockOperandPtr.get!_OperationPtr_setBlockOperands {blockOperand : BlockOperandPtr} :
+    blockOperand.get! (OperationPtr.setBlockOperands operation' ctx newOperands hop') =
+    if blockOperand.op = operation' then
+      newOperands[blockOperand.index]!
+    else
+      blockOperand.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:702]:
```suggestion
    if blockOperand.op = operation' then newOperands[blockOperand.index]!
    else blockOperand.get! ctx := by
```
same as above

File: Veir/IR/GetSet.lean [hunk 10]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[simp, grind =]
+theorem OperationPtr.getNumRegions!_OperationPtr_setBlockOperands {operation : OperationPtr} {hop} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]: should `hop` have a type?

Comment (luisacicolini) [reply Veir/IR/GetSet.lean]: if it does not have a type AFAIK you can just not put it and leave it there in the statement

File: Veir/IR/GetSet.lean [hunk 11]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+    operation.getNumRegions! (OperationPtr.setBlockOperands op ctx newOperands hop) =
+    operation.getNumRegions! ctx := by
+  grind
+
+@[simp, grind =]
+theorem OperationPtr.getRegion!_OperationPtr_setBlockOperands {operation : OperationPtr} {hop} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]: same as above for `hop`

File: Veir/IR/GetSet.lean [hunk 12]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+theorem BlockOperandPtrPtr.get!_OperationPtr_setBlockOperands {blockOperandPtr : BlockOperandPtrPtr} :
+    blockOperandPtr.get! (OperationPtr.setBlockOperands operation' ctx newOperands hop') =
+    match blockOperandPtr with
+    | .blockOperandNextUse blockOperand =>
+      if blockOperand.op = operation' then
+        newOperands[blockOperand.index]!.nextUse
+      else
+        blockOperandPtr.get! ctx
+    | .blockFirstUse _ =>
+      blockOperandPtr.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:727]: having this match statement looks a bit weird to me, I would split the lemma into two passing a hypotheses on the constructor of `blockOperandPtr` (e.g. the `_zero` and `_succ` lemmas when we deal with constructors using induction on nats)

File: Veir/IR/GetSet.lean [hunk 13]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[simp, grind =]
+theorem BlockPtr.getNumArguments!_OperationPtr_setBlockOperands {block : BlockPtr} {hop} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]: same concern with `hop`

File: Veir/IR/GetSet.lean [hunk 14]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+    value.getType! ctx := by
+  grind
+
+@[simp, grind =]
+theorem OpOperandPtrPtr.get!_OperationPtr_setBlockOperands {opOperandPtr : OpOperandPtrPtr} :
+    opOperandPtr.get! (OperationPtr.setBlockOperands op ctx newOperands hop) =
+    opOperandPtr.get! ctx := by
+  grind
+
+/- OperationPtr.pushBlockOperand -/
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:766]:
```suggestion
/-! ### OperationPtr.pushBlockOperand -/
```
same as above

File: Veir/IR/GetSet.lean [hunk 15]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+theorem BlockPtr.get!_OperationPtr_pushBlockOperand {block : BlockPtr} :
+    block.get! (OperationPtr.pushBlockOperand operation' ctx newOperand hop') =
+    block.get! ctx := by
+  grind
+
+@[grind =]
+theorem OperationPtr.get!_OperationPtr_pushBlockOperand {operation : OperationPtr} :
+    operation.get! (OperationPtr.pushBlockOperand operation' ctx newOperand hop') =
+    if operation = operation' then
+      { operation.get! ctx with blockOperands := (operation.get! ctx).blockOperands.push newOperand }
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]:
```suggestion
      {operation.get! ctx with blockOperands := (operation.get! ctx).blockOperands.push newOperand}
```

File: Veir/IR/GetSet.lean [hunk 16]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[simp, grind =]
+theorem OperationPtr.getNumOperands!_OperationPtr_pushBlockOperand {operation : OperationPtr} :
+    operation.getNumOperands! (OperationPtr.pushBlockOperand operation' ctx hop' newOperands) =
+    operation.getNumOperands! ctx := by
+  grind
+
+@[simp, grind =]
+theorem OpOperandPtr.get!_OperationPtr_pushBlockOperand {op : OperationPtr} {hop} {opOperand : OpOperandPtr} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:844]: same concern with `hop` as above

File: Veir/IR/GetSet.lean [hunk 17]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+    opOperand.get! ctx := by
+  grind
+
+@[grind =]
+theorem OperationPtr.getNumSuccessors!_OperationPtr_pushBlockOperand {operation : OperationPtr} :
+    operation.getNumSuccessors! (OperationPtr.pushBlockOperand operation' ctx newOperand hop') =
+    if operation = operation' then
+      (operation.getNumSuccessors! ctx) + 1
+    else
+      operation.getNumSuccessors! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:855]:
```suggestion
    if operation = operation' then operation.getNumSuccessors! ctx) + 1
    else operation.getNumSuccessors! ctx := by
```
again my personal preference, feel free to ignore

File: Veir/IR/GetSet.lean [hunk 18]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[grind =]
+theorem BlockOperandPtr.get!_OperationPtr_pushBlockOperand {blockOperand : BlockOperandPtr} :
+    blockOperand.get! (OperationPtr.pushBlockOperand operation' ctx newOperand hop') =
+    if blockOperand = operation'.nextBlockOperand ctx then
+      newOperand
+    else
+      blockOperand.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:864]: same as above

File: Veir/IR/GetSet.lean [hunk 19]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+    operation.getRegion! ctx i := by
+  grind
+
+@[grind =]
+theorem BlockOperandPtrPtr.get!_OperationPtr_pushBlockOperand {blockOperandPtr : BlockOperandPtrPtr} :
+    blockOperandPtr.get! (OperationPtr.pushBlockOperand operation' ctx newOperand hop') =
+    if blockOperandPtr = .blockOperandNextUse (operation'.nextBlockOperand ctx) then
+      newOperand.nextUse
+    else
+      blockOperandPtr.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:885]: same as above

File: Veir/IR/GetSet.lean [hunk 20]
```diff
@@ -601,6 +601,326 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushOperand {opOperandPtr : OpOperandP
...
+  grind
+
+@[simp, grind =]
+theorem BlockPtr.getNumArguments!_OperationPtr_pushBlockOperand {block : BlockPtr} {hop} :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean]: same concern with `hop`

File: Veir/IR/InBounds.lean [hunk 21]
```diff
@@ -123,6 +123,40 @@ theorem OperationPtr.setOperands_OpOperandPtr_InBounds_mono_ne {opOperand : OpOp
...
   grind
 
+
+@[grind =]
+theorem OperationPtr.setBlockOperands_genericPtr_mono (ptr : GenericPtr)
+    (newOperandsSize : OperationPtr.getNumSuccessors! op ctx < newOperands.size) :
+    (ptr.InBounds (setBlockOperands op ctx newOperands h) ↔
+    (ptr.InBounds ctx
+    ∨ (∃ index, ptr = GenericPtr.blockOperand ⟨op, index⟩ ∧ index < newOperands.size ∧ index ≥ OperationPtr.getNumSuccessors! op ctx)
+    ∨ (∃ index, ptr = GenericPtr.blockOperandPtr (.blockOperandNextUse ⟨op, index⟩) ∧ index < newOperands.size ∧ index ≥ OperationPtr.getNumSuccessors! op ctx))) := by
```
Comment (luisacicolini) [inline Veir/IR/InBounds.lean]: the lines are very long, should be split?

File: Veir/IR/InBounds.lean [hunk 22]
```diff
@@ -123,6 +123,40 @@ theorem OperationPtr.setOperands_OpOperandPtr_InBounds_mono_ne {opOperand : OpOp
     (opOperand.InBounds (op.setOperands ctx h' newOperands) ↔ opOperand.InBounds ctx) := by
   grind
 
+
+@[grind =]
+theorem OperationPtr.setBlockOperands_genericPtr_mono (ptr : GenericPtr)
```
Comment (luisacicolini) [inline Veir/IR/InBounds.lean:127]: usual concern with namespace which we should discuss separately, though

File: Veir/IR/GetSet.lean (hunk 10 above)
Comment (ineol) [reply Veir/IR/GetSet.lean]: I'm not 100% sure if that is the case here, but sometimes when the the parameter is an `autoParam` Lean does not auto-introduce the variable as a parameter for some reason.

Comment (math-fehr) [reply Veir/IR/GetSet.lean]: The problem here is that `hop` depends on `op`, so if you don't declare it, then `hop` won't have the correct type because auto-introduced variables are defined before the manually introduced ones, so `hop` cannot depend on `op`.
Since that's the case, should I leave it like that, or should I add a type for consistency with Lean4?

File: Veir/IR/Basic.lean (hunk 2 above)
Comment (math-fehr) [reply Veir/IR/Basic.lean:462]: I'm not sure I understand. Why would we want them to be implicit? That would make it hard to use the function right?
